US04891440
Into a 1 liter autoclave were charged 200 g (1.40 mol) of N,N-dimethylaminoethyl acrylate obtained by a conventional rectification under reduced pressure in an nitrogen atmosphere, 44.4 g of acetone and 0.4 g of hydroquinone monomethyl ether (polymerization inhibitor). After its internal temperature had been lowered to 20° C. or below, 22.2 g of distilled water was added thereto. The ratio of the charged materials was as follows: Dimethylaminoethyl acrylate : water : acetone =100 : 11.1 : 22.2. After adding water, the air in the reaction system was replaced with nitrogen gas until the concentration of dissolved oxygen had been lowered to 1.5 ppm, and then the reaction was allowed to start by introducing methyl chloride from a bomb at a pressure of 1.8 kg/cm2. The reaction was allowed to proceed for 22 hours, during which the reaction temperature was so controlled that it would not exceed 40° C. After the reaction, the remaining pressure was released. The mixture contained 0.03% of free amines and 4 ppm of dissolved oxygen. After 45.4 g of water had been added thereto, the acetone contained in the resulting solution was removed off at reduced pressure at a temperature of 20° to 30° C. There was obtained 330 g of aqueous solution of unsaturated quaternary ammonium salt which contained 0.8 ppm of dissolved oxygen. The concentration of the quaternary ammonium salt contained in the product, the concentration of acrylic acid contained therein and its hue (APHA) (according to JIS-K-4104) were 81.8%, 0.07% and 10, respectively.

reactant | N,N-dimethylaminoethyl acrylate | 1.40 mol, 200 g | C(C=C)(=O)OCCN(C)C | C7H13NO2
solvent | acetone | 44.4 g | CC(=O)C | C3H6O
product | hydroquinone monomethyl ether | 0.4 g | COC1=CC=C(O)C=C1 | C7H8O2
